US09302991B2
<Step-1>: 2-amino-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isonicotinamide
The title compound is prepared in 29% yield (182 mg, a white solid) from (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride (473 mg, 1.95 mmol) and 2-aminoisonicotinic acid (269 mg, 1.95 mmol) by the similar manner in Step-1 of Example-8.

reactant | (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride | 1.95 mmol, 473 mg | Cl.FC(COC1=CC=C(C=N1)CN)(F)F
reactant | 2-aminoisonicotinic acid | 1.95 mmol, 269 mg | NC=1C=C(C(=O)O)C=CN1 | C6H6N2O2
product | 2-amino-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)isonicotinamide | 29% yield | NC=1C=C(C(=O)NCC=2C=NC(=CC2)OCC(F)(F)F)C=CN1 | C14H13F3N4O2
